US09315458B2
E) methyl 5-bromo-4-cyano-2-hydroxy-3-methylbenzoate
To a solution of 5-bromo-4-cyano-2-hydroxy-3-methylbenzoic acid (7.40 g) in dichloromethane (70.0 mL) were added oxalyl chloride (3.91 g) and DMF (0.20 mL) under ice-cooling, and the mixture was stirred for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with THF. To this mixture was added dropwise a solution of triethylamine (5.66 g) in methanol (50.0 mL) under ice-cooling, and the mixture was stirred for 20 min. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (4.20 g).

reactant | 5-bromo-4-cyano-2-hydroxy-3-methylbenzoic acid | 7.40 g | BrC=1C(=C(C(=C(C(=O)O)C1)O)C)C#N | C9H6BrNO3
reactant | oxalyl chloride | 3.91 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.20 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 70.0 mL | ClCCl | CH2Cl2
product | methyl 5-bromo-4-cyano-2-hydroxy-3-methylbenzoate | 4.20 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)C)C#N | C10H8BrNO3
